US09260429B2
2-(6-chloro-1,2,3,4-tetrahydro-2-methylpyrido[3,4-b]indol-9-yl)acetic acid (0.1 g, 0.39 mmol) was dissolved in dichloromethane (4 mL) and was cooled to 0° C., using an ice-bath; oxalyl chloride (0.04 mL, 0.43 mmol) was added drop-wise to the reaction mixture. Catalytic amount (1 drop) of dimethyl formamide was added and the reaction mixture was stirred for 1 h at room temperature. Excess oxalyl chloride was distilled away under reduced pressure. A solution of 4-fluoroaniline (0.042 g, 0.43 mmol) in dichloromethane (2 mL) and 4-dimethylaminopyridine (0.017 g, 0.143 mmol) was added to the residue under nitrogen at room temperature and the reaction mass was stirred for 30 min. The reaction mixture was quenched with water and neutralized with 10% NaHCO3, extracted with dichloromethane (2×10 mL). The combined organic layer was dried over sodium sulfate and concentrated by rotary evaporation to obtain 2-(6-chloro-1,2,3,4-tetrahydro-2-methylpyrido[3,4-b]indol-9-yl)-N-(4-fluorophenyl)acetamide (6 mg) after purification by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection volume 5 mL). 1H NMR (DMSO): 11.4 (s, 1H), 10.6 (s, 1H), 7.6 (m, 3H), 7.4 (d, 1H), 7.3-7.1 (m, 3H), 5.1 and 4.9 (d, 2H), 4.4 (q, 2H), 4.1-3.9 (bs, 2H), 3.5 (s, 3H), 3.2-3.1 (m, 2H).

reactant | 2-(6-chloro-1,2,3,4-tetrahydro-2-methylpyrido[3,4-b]indol-9-yl)acetic acid | 0.39 mmol, 0.1 g | ClC=1C=C2C3=C(N(C2=CC1)CC(=O)O)CN(CC3)C | C14H15ClN2O2
reactant | oxalyl chloride | 0.43 mmol, 0.04 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-fluoroaniline | 0.43 mmol, 0.042 g | FC1=CC=C(N)C=C1 | C6H6FN
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
catalyst | dimethyl formamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.143 mmol, 0.017 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(6-chloro-1,2,3,4-tetrahydro-2-methylpyrido[3,4-b]indol-9-yl)-N-(4-fluorophenyl)acetamide | 6 mg | ClC=1C=C2C3=C(N(C2=CC1)CC(=O)NC1=CC=C(C=C1)F)CN(CC3)C | C20H19ClFN3O
